US05034047
b) 4-[3-Tetrahydropyran-2-ylisoxazol-5-yl]-3-buten- 2-one
47 g of 1-triphenylphosphoranylidene-2-propanone were dissolved in 50 ml of dichloromethane, and 27 g of 5-formyl-3-tetrahydropyran-2-ylisoxazole were added. The reaction mixture was stirred for 1 day at room temperature and then evaporated down, the residue being stirred in methyl tert-butyl ether. After the triphenylphosphine oxide had been separated off, 43 g of a yellow oil remained.

reactant | 1-triphenylphosphoranylidene-2-propanone | 47 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | 5-formyl-3-tetrahydropyran-2-ylisoxazole | 27 g | C(=O)C1=CC(=NO1)C1OCCCC1 | C9H11NO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[3-Tetrahydropyran-2-ylisoxazol-5-yl]-3-buten- 2-one | O1C(CCCC1)C1=NOC(=C1)C=CC(C)=O | C12H15NO3
